US07459448B2
2-(3,4-Dimethoxy-phenylamino)-9-(3-methylamino-propyl)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (HCl) (I-87)
In a manner similar to that described for Method O, 2-(3,4-dimethoxy-phenylamino)-9-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-30) and N-methylprop-2-yn-1-amine were converted to 2-(3,4-dimethoxy-phenylamino)-9-(3-methylamino-prop-1-ynyl)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one. The crude product (unstable) was carried on in a similar manner to that described for Method P to give I-87, which was converted to the HCl salt (40%): MS Rt═0.98 min, m/z═434 (M+H).

reactant | 2-(3,4-dimethoxy-phenylamino)-9-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)I)N1 | C20H17IN4O3
reactant | N-methylprop-2-yn-1-amine | CNCC#C | C4H7N
reactant | 2-(3,4-dimethoxy-phenylamino)-9-(3-methylamino-prop-1-ynyl)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)C#CCNC)N1 | C24H23N5O3
reactant | HCl | Cl | ClH
product | 2-(3,4-Dimethoxy-phenylamino)-9-(3-methylamino-propyl)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)CCCNC)N1 | C24H27N5O3
